US07265104B2
To a solution of 3-{6-[(isopropyl-phenyl-carbamoyl)-methyl]-4-methyl-5-oxo-1-phenyl-5,6-dihydro-4H-2,3,6,10b-tetraaza-benzo[e]azulen-4-ylmethyl}-indole-1-carboxylic acid tert-butyl ester in dioxane (1 mL) was added HCl (4.0M in dioxane, 550 μL) and the reaction was stirred at room temperature for 50 hours. The volatiles were concentrated in vacuo and the residue was dissolved in CH2Cl2. The organic solution was washed with aqueous NaHCO3 (1×), dried (Na2SO4), filtered and concentrated. Purification by preparative chromatography eluting with 40% acetone in CH2Cl2 provided 17 mg of 2-[4-(1H-indol-3-ylmethyl)-4-methyl-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl]-N-isopropyl-N-phenyl-acetamide. 1H NMR (CD2Cl2) δ 8.37 (s, 1H), 7.78 (m, 1H), 7.53-7.23 (m, 13H), 7.11 (m, 2H, 7.02 (t, 1H), 6.90 (d, 1H), 5.03 (m, 1H), 4.33 (d, 1H), 3.76-3.58 (m, 1H), 2.83 (m, 2H), 1.75 (s, 3H), 1.11 (m, 6H); MS 595.2 (M+1).

reactant | 3-{6-[(isopropyl-phenyl-carbamoyl)-methyl]-4-methyl-5-oxo-1-phenyl-5,6-dihydro-4H-2,3,6,10b-tetraaza-benzo[e]azulen-4-ylmethyl}-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)CC1(C(N(C2=C(N3C(=NN=C13)C1=CC=CC=C1)C=CC=C2)CC(N(C2=CC=CC=C2)C(C)C)=O)=O)C | C42H42N6O4
reactant | HCl | 4.0M, 550 μL | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2-[4-(1H-indol-3-ylmethyl)-4-methyl-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl]-N-isopropyl-N-phenyl-acetamide | 17 mg | N1C=C(C2=CC=CC=C12)CC1(C(N(C2=C(N3C(=NN=C13)C1=CC=CC=C1)C=CC=C2)CC(=O)N(C2=CC=CC=C2)C(C)C)=O)C | C37H34N6O2
